US05214037
To a suspension of 1,2,3-triazol-4-thiol sodium salt (109 g : 870 mMol.) in dimethylformamide (300 ml) is added dropwise at -20° to -30° C. chloromethyl thiolacetate (109 g : 870 mMol.), and the mixture is stirred at room temperature for 2 hours. To the reaction mixture are added under ice cooling trityl chloride (292 g; 1.05 Mol.) and pyridine (84.6 ml : 1.05 Mol.), and the mixture is stirred at room temperature for 18 hours, diluted with dichloromethane, washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is crystallized from ether to give 4-acetylthiomethylthio-1-trityl-1,2,3-triazole (183 g). Yield: 49%. mp. 115° to 116° C. Colorless crystals.

reactant | 1,2,3-triazol-4-thiol sodium salt | 870 mMol, 109 g | [Na].N1N=NC(=C1)S
reactant | chloromethyl thiolacetate | 870 mMol, 109 g | S1C(=CC=C1)CC(=O)OCCl | C7H7ClO2S
reactant | trityl chloride | 1.05 Mol, 292 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | 1.05 Mol, 84.6 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-acetylthiomethylthio-1-trityl-1,2,3-triazole | 183 g, Yield: 49% | C(C)(=O)SCSC=1N=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3OS2
